US08383644B2
(3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-8-{(S)-2-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]-isoquinoline-7-carboxylic acid tert-butyl ester (50 mg) was taken in 2 mL of DCM and cooled to 0° C., HCl (0.5 mL, 4N in dioxane) was added and stirred at room temperature for 2 hours. All volatiles were evaporated and residue was washed with hexanes and dried under vacuum to get (S)-2-({(3S,8S)-3-[3-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester dihydrochloride (46 mg).

reactant | (3S,8S)-3-[3-(3,4-Dichloro-benzyloxy)-phenyl]-8-{(S)-2-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]-isoquinoline-7-carboxylic acid tert-butyl ester | 50 mg | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(N[C@@H](CC1=CC=C(C=C1)OC1=C(C(=NC=C1)C)C)C(=O)OC)=O)OC[C@@H](O3)C3=CC(=CC=C3)OCC3=CC(=C(C=C3)Cl)Cl | C47H47Cl2N3O9
reactant | HCl | 4N, 0.5 mL | Cl | ClH
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-({(3S,8S)-3-[3-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yloxy)-phenyl]-propionic acid methyl ester dihydrochloride | 46 mg | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)OC1=C(C(=NC=C1)C)C)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC(=CC=C3)OCC3=CC(=C(C=C3)Cl)Cl)=O | InChI=1S/C42H39Cl2N3O7.2ClH/c1-24-25(2)45-14-13-37(24)53-31-10-7-26(8-11-31)16-36(42(49)50-3)47-41(48)35-18-29-19-38-39(20-30(29)21-46-35)54-40(23-52-38)28-5-4-6-32(17-28)51-22-27-9-12-33(43)34(44)15-27;;/h4-15,17,19-20,35-36,40,46H,16,18,21-23H2,1-3H3,(H,47,48);2*1H/t35-,36-,40+;;/m0../s1
